US07897597B2
A solution of 6-acetoxy-2-methylbenzo[d][1,3]oxazin-4-one (143 g, 0.653 mol) in 1.44 L of glacial acetic acid was stirred overnight with sodium azide (44.66 g, 0.687 mol). The solution was concentrated under reduced pressure and toluene (1.2 L) was then added. After stirring for one hour, a solid formed. The solid was recovered by filtration and then dried overnight under reduced pressure. The solid was dissolved in 2 L of water and the pH was adjusted to 1 with concentrated hydrochloric acid. After stirring for 3 hours, the resulting solid was filtered and dried overnight under a flow of air to give 164.1 g of 5-acetoxy-2-(5-methyltetrazol-1-yl)benzoic acid as an off white solid.

reactant | 6-acetoxy-2-methylbenzo[d][1,3]oxazin-4-one | 0.653 mol, 143 g | C(C)(=O)OC1=CC2=C(N=C(OC2=O)C)C=C1 | C11H9NO4
reactant | sodium azide | 0.687 mol, 44.66 g | [N-]=[N+]=[N-].[Na+]
solvent | acetic acid | 1.44 L | C(C)(=O)O | C2H4O2
product | 5-acetoxy-2-(5-methyltetrazol-1-yl)benzoic acid | 164.1 g | C(C)(=O)OC=1C=CC(=C(C(=O)O)C1)N1N=NN=C1C | C11H10N4O4
